US06166041
Preparation of 2-(benzo[b]thien-2-yl)-5-chloro-7-[2-(pyridin-2-yl)ethyl]-benzoxazole
This compound is prepared from 2-amino-4-chloro-6-[2-(pyridin-2-yl)ethyl]-phenol and benzo[b]thiophene-2-carbonyl chloride using method A with 1,4-dioxan as solvent to give the crude amide (73%). This is treated with methanesulphonic acid in toluene at reflux with azeotropic removal of water to give the title compound, (41%) as a white crystalline solid m.p.=183-184° C. TLC (SiO2, EtOAc:hexanes 1:1, Rf=0.56). CI Mass Spectrum (methane) m/z=391 [M+H]+.

reactant | 2-amino-4-chloro-6-[2-(pyridin-2-yl)ethyl]-phenol | NC1=C(C(=CC(=C1)Cl)CCC1=NC=CC=C1)O | C13H13ClN2O
reactant | benzo[b]thiophene-2-carbonyl chloride | S1C2=C(C=C1C(=O)Cl)C=CC=C2 | C9H5ClOS
reactant | methanesulphonic acid | CS(=O)(=O)O | CH4O3S
reactant | water | O | H2O
solvent | 1,4-dioxan | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(benzo[b]thien-2-yl)-5-chloro-7-[2-(pyridin-2-yl)ethyl]-benzoxazole | 41% | S1C2=C(C=C1C=1OC3=C(N1)C=C(C=C3CCC3=NC=CC=C3)Cl)C=CC=C2 | C22H15ClN2OS
